US05679696
Stirring thionyl chloride (20 mL) is treated portionwise with 3-cyclopentyloxy-4-methoxybenzoic acid (5.0 g; that is prepared as described hereinbefore in Reference Example 2) and the solution is then heated at 85° C. for 3 hours. Toluene (50 mL) is added and the mixture is concentrated to give 3-cyclopentyloxy-4-methoxybenzoyl chloride (4.12 g) in the form of an oil which slowly crystallized. [NMR(CDCl3): 1.6-1.7 (m,2H),1.8-1.95(m,4H),1.94-2.05(m,2H),3.94(s,3H),4.85 (m, 1H), 6.9(d, 1H),7.55(d, 1H),7.8(q, 1H); Elemental analysis: C,61.3; H,5.94; Cl,13.9%; Calculated: C,61.3; H,5.94; Cl,13.92%].

reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-cyclopentyloxy-4-methoxybenzoic acid | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1OC | C13H16O4
solvent | Toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopentyloxy-4-methoxybenzoyl chloride | 4.12 g | C1(CCCC1)OC=1C=C(C(=O)Cl)C=CC1OC | C13H15ClO3
